US04933355
Ethyl 2-(3-methylureido)thiazol-4-ylglyoxylate
Following a procedure similar to that described in Preparation 1, the desired compound was prepared from 10 g of ethyl 2-aminothiazol-4-ylglyoxylate. 7 g of methyl isocyanate and 200 ml of ethyl acetate. The resulting product was a pale yellow powder having the following physical properties.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 10 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | methyl isocyanate | 7 g | CN=C=O | C2H3NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(3-methylureido)thiazol-4-ylglyoxylate | CNC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C9H11N3O4S
